US07253286B2
4-{4-[3-(4-Fluorophenyl)ureido]phenoxy}furo[2,3-b]pyridine-2-carboxylic acid methyl ester
After adding toluene (1 ml), acetonitrile (0.5 ml) and 4-fluorophenyl isocyanate (0.02 ml) to 4-(4-aminophenoxy)furo[2,3-b]pyridine-2-carboxylic acid methyl ester (28 mg), the mixture was heated to reflux for 30 minutes. After cooling, the precipitated crystals were filtered off and washed with toluene to obtain the title compound (24 mg) as light yellow crystals.

reactant | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
reactant | 4-fluorophenyl isocyanate | 0.02 ml | FC1=CC=C(C=C1)N=C=O | C7H4FNO
reactant | 4-(4-aminophenoxy)furo[2,3-b]pyridine-2-carboxylic acid methyl ester | 28 mg | COC(=O)C1=CC=2C(=NC=CC2OC2=CC=C(C=C2)N)O1 | C15H12N2O4
solvent | acetonitrile | 0.5 ml | C(C)#N | C2H3N
product | 4-{4-[3-(4-Fluorophenyl)ureido]phenoxy}furo[2,3-b]pyridine-2-carboxylic acid methyl ester | 24 mg | COC(=O)C1=CC=2C(=NC=CC2OC2=CC=C(C=C2)NC(=O)NC2=CC=C(C=C2)F)O1 | C22H16FN3O5
